* eeschema netlist version 1.1 (spice format) creation date: monday 13 may 2013 01:50:12 pm ist
.include ua741.sub

r2  1 4 100k
* Plotting option vplot8_1
v1  3 0 ac 1
r1  4 0 1k
x1  3 4 1 ua741

.ac lin 10 1Hz 1Meg

* Control Statements 
.control
run
plot v(3) v(1) 
.endc
.end
